US06281218B1
[2-(2-Chloroacetylamino)-6-methoxyphenyl]carbamic Acid Benzyl Ester
To a cool solution of (2-amino-6-methoxyphenyl)carbamic acid benzyl ester (9.5 g; 34.9 mmol) and triethylamine (5.8 ml; 42 mmol) in anhydrous THF (90 ml), chloroacetylchloride (3.3 ml; 42 mmol) was added dropwise. The mixture was stirred at 0° C. for 2 hours, the solvent was evaporated and the residue was dissolved in ethyl acetate. The organic layer was washed with 10% aqueous HCl and diluted aqueous Na2 CO3 then it was dried and evaporated. The crude residue was crystallized with n-hexane to give the title compound as a white solid. 10.8 g.

reactant | (2-amino-6-methoxyphenyl)carbamic acid benzyl ester | 34.9 mmol, 9.5 g | C(C1=CC=CC=C1)OC(NC1=C(C=CC=C1OC)N)=O | C15H16N2O3
reactant | triethylamine | 42 mmol, 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 42 mmol, 3.3 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | [2-(2-Chloroacetylamino)-6-methoxyphenyl]carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(NC1=C(C=CC=C1OC)NC(CCl)=O)=O | C17H17ClN2O4
